US06686349B2
11-(2,3-Dihydro-benzofuran-5-yl)-3-methyl-2,3,4a,11-tetrahydro-10H-3,10,11a-triaza-benzo[b]fluorene-1,4,5-trione; Compound # 1
6-(2,3-Dihydro-benzofuran-5-yl)-2-methyl-2,3,6,7,12,12a-hexahydro pyrazino[1′,2′:1,6]pyrido[3,4-b]indole-1,4-dione (39.6 mg, 0.1019 mmol), prepared according to Example 1 or 2 as described in WO97/03675, was dissolved in DMF (1.0 mL). To the solution was added KOt-Bu (0.173 mL, 1.0 M in THF). The solution was stirred under air (passed through drying tube) for 3 hours. Additional KOt-Bu (0.15 mL, 1.0 M in THF) was added and the reaction mixture stirred for another 3 hours under dry air. The reaction mixture was quenched by HCl (0.323 mL, 1.0 M HCl in ether) and the ether solvent evaporated. PyBrOP (53 mg, 0.1019 mmol) and DIPEA (0.036 mL, 0.204 mmol) were added, then DMF (0.2 mL) was added to make the total volume 1 mL. The resulting mixture was stirred at room temperature for 16 hours. Preparative TLC (1% CH3OH/CH2Cl2) yield the title product as a yellow solid.

reactant | 6-(2,3-Dihydro-benzofuran-5-yl)-2-methyl-2,3,6,7,12,12a-hexahydro pyrazino[1′,2′:1,6]pyrido[3,4-b]indole-1,4-dione | 0.1019 mmol, 39.6 mg | O1CCC2=C1C=CC(=C2)C2N1C(CC3=C2NC=2C=CC=CC32)C(N(CC1=O)C)=O | C23H21N3O3
reactant | KOt-Bu | 1.0 M, 0.173 mL | CC(C)(C)[O-].[K+]
reactant | KOt-Bu | 1.0 M, 0.15 mL | CC(C)(C)[O-].[K+]
reactant | PyBrOP | 0.1019 mmol, 53 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.204 mmol, 0.036 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | CH3OH CH2Cl2 | CO.C(Cl)Cl
product | 11-(2,3-Dihydro-benzofuran-5-yl)-3-methyl-2,3,4a,11-tetrahydro-10H-3,10,11a-triaza-benzo[b]fluorene-1,4,5-trione | O1CCC2=C1C=CC(=C2)C2N1C(CN(C(C1C=1C(C3=C(NC21)C=CC=C3)=O)=O)C)=O | C23H19N3O4
